US04762839
6,7-Dichloro-3-methyl-4-hydroxy-4-thioureidocarbonyl-2-oxo-1,2,3,4-tetrahydroquinazoline (2.8 g) is dissolved in dimethylformamide (30 ml), and thereto is added sodium hydride (60% oily suspension) (0.32 g), and the mixture is stirred at room temperature for 30 minutes. To the mixture is added ethyl bromide (2 ml), and the mixture is further stirred for 30 minutes, and then the solvent is distilled off under reduced pressure. To the residue [i.e. 6,7-dichloro-3-methyl-4-hydroxy-4-(2-methylisothioureido)-carbonyl-2-oxo-1,2,3,4-tetrahydroquinazoline] is added 10% hydrochloric acid (30 ml), and the mixture is stirred at 70° C. for 4 hours. After cooling, the precipitates are taken by filtration, washed with 10% aqueous sodium hydrogen carbonate solution and then recrystallized from dimethylformamide-water to give 6,7-dichloro-3-methyl-spiro[1,2,3,4-tetrahydroquinazoline-4,4'-imidazolidine]-2,2',5'-trione (1.4 g).

reactant | 6,7-Dichloro-3-methyl-4-hydroxy-4-thioureidocarbonyl-2-oxo-1,2,3,4-tetrahydroquinazoline | 2.8 g | ClC=1C=C2C(N(C(NC2=CC1Cl)=O)C)(C(=O)NC(=S)N)O | C11H10Cl2N4O3S
reactant | sodium hydride | 0.32 g | [H-].[Na+]
reactant | ethyl bromide | 2 ml | C(C)Br | C2H5Br
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6,7-dichloro-3-methyl-spiro[1,2,3,4-tetrahydroquinazoline-4,4'-imidazolidine]-2,2',5'-trione | 1.4 g | ClC=1C=C2C(=CC1Cl)NC(N(C21NC(NC1=O)=O)C)=O | C11H8Cl2N4O3
